### PR TITLE
feat(Algebra/LocalIso): prove of_bijective and comp for RingHom.IsLocalIso

### PR DESCRIPTION
**Pull request by chrisflav**
Prove `RingHom.IsLocalIso.of_bijective`: a bijective ring homomorphism is a local isomorphism.

Prove `RingHom.IsLocalIso.comp`: the composition of two local isomorphisms is a local isomorphism. The proof localizes at primes of the target, lifts elements via `IsLocalization.Away.surj`, and builds the required `IsStandardOpenImmersion` instances by composing localization equivalences.

### CODE REVIEW

File: Proetale/Algebra/LocalIso.lean [hunk 1]
```diff
@@ -102,11 +103,83 @@ lemma pi_of_finite {ι : Type*} (R : Type*) (S : ι → Type*)
...
   instOfIsStandardOpenImmersion R R
 
+lemma trans {T : Type*} [CommSemiring T] [Algebra S T] [Algebra R T] [IsScalarTower R S T]
+    [IsLocalIso R S] [IsLocalIso S T] : IsLocalIso R T := by
+  constructor
+  intro q hq
+  obtain ⟨g₁, hg₁q, hstd_g⟩ :=
+    Algebra.IsLocalIso.exists_notMem_isStandardOpenImmersion (R := S) q
+  obtain ⟨s₁, hs₁⟩ := Algebra.IsStandardOpenImmersion.exists_away S (Localization.Away g₁)
+  set Tg := Localization.Away g₁
```
Comment (jjdishere) [inline Proetale/Algebra/LocalIso.lean]:
```suggestion
  let Tg := Localization.Away g₁
  obtain ⟨s₁, hs₁⟩ := Algebra.IsStandardOpenImmersion.exists_away S Tg
```

**Review by jjdishere — COMMENTED** [review]
Please improve.

File: Proetale/Algebra/LocalIso.lean [hunk 2]
```diff
@@ -102,11 +103,83 @@ lemma pi_of_finite {ι : Type*} (R : Type*) (S : ι → Type*)
...
+        apply (config := { allowSynthFailures := true }) IsLocalization.Away.mul'
+          (Localization.Away (algebraMap S Tg r₁))
+        apply IsLocalization.away_of_isUnit_of_bijective
+        · exact IsUnit.map _ hunit
+        · exact Function.bijective_id
+      let e' : Localization.Away ((algebraMap S Tg r₁) * (algebraMap T Tg g₁) ^ n) ≃ₐ[Tg]
+          Localization.Away (algebraMap S Tg r₁) :=
+        Localization.algEquiv _ _
+      set Sr := Localization.Away r₁
+      set Tgr := Localization.Away (algebraMap S Tg r₁)
```
Comment (jjdishere) [inline Proetale/Algebra/LocalIso.lean]: if you are going to make a new declaration in the proof, use let before it's first occurrence is better than use set after.

File: Proetale/Algebra/LocalIso.lean [hunk 3]
```diff
@@ -102,11 +103,83 @@ lemma pi_of_finite {ι : Type*} (R : Type*) (S : ι → Type*)
...
+      letI : Algebra Sr Tgr := (IsLocalization.Away.map Sr Tgr (algebraMap S Tg) r₁).toAlgebra
+      haveI : IsScalarTower R Sr Tgr :=
```
Comment (jjdishere) [inline Proetale/Algebra/LocalIso.lean]: all these haveI should be `have` or `have _`

**Comment by chrisflav** [comment]
orchestra address review
